US04781977
Neospitase (a product of Nagase Industrial Co., Ltd.; 0.05 g) was added to 100 g of potato starch, and then water was added to adjust the total volume to 2 liters. The mixture was heated at 80° C. for 20 minutes and then autoclaves at 120° C. for 10 minutes. Then, the treated product was cooled to 50° C., and 1,000 units of CGTase obtained from Bacillus ohbensis (FERM P-1990) was added, and the reaction was carried out at 50° C. and a pH of 6.0 for 24 hours to form CD. The reaction mixture was heat-treated to 100° C. for 15 minutes, and then the enzyme was inactivated. Part of the reaction product was sampled, and the amount of CD formed was measured by liquid chromatography. It was found that 0.8% (wt/wt) of α-CD, 31.0% (wt/wt) of β-CD and 8.5% (wt/wt) of γ-CD were formed.

reactant | β-CD | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
solvent | water | O | H2O
product | γ-CD | 8.5% | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O40
